data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,1996,"C=CCC(C1(C)C2=C(OC1C)C(Br)=CC=C2O[Si](C(C)C)(C(C)C)C(C)C)[OH+:1][Ti-:2]([OH])([Cl])([Cl])[Cl].C[Si](C)(C)Cl|((2, 1), 1)"
train,pmechdb_split_0,0,342,"BrC(Br)Br.C1=CC=C([P:1](OCC2=CC3=C(C=C2)OCO3)(C2=CC=CC=C2)(C2=CC=CC=C2)[Br:2])C=C1|((1, 2), 2)"
train,pmechdb_split_0,0,880,"CC[NH+:1](C(C)([O-])OC(C)=O)[H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,345,"C1=CC=C(C2=NCCNC2(C2=CC=CC=C2)[O-:1])C=C1.CCO.NCC[NH2+:2][H:3].O|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,1282,"CC[NH2:1].[CH2:2]=[CH:3][C:4]#[NH+:5]|(1, 2);((2, 3), 4);((4, 5), 5)"
train,pmechdb_split_0,0,7243,"CC#[C-:1].CO[C:2](C)=[O:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,9152,"CCOCC.COC1=CC(CC(O)CCOCC2=CC=CC=C2)=C(OC)C2=CC=CC(OC)=C12.C[O+:1]([B-](F)(F)F)[CH2:2][O:3]C|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5289,"CC1=C(C#N)C(=O)N2CCC(=[O:1])C2=C1.CC1=CC=C(S(=O)(=O)[O:2][H:3])C=C1.OCCO|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,2736,"CC(C)[C:1]1([H:2])OC(C#N)=C[CH+:3]1.[F-:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,9243,"CC(=O)O.CC(=O)[O:1][S+:2](C1=CC=CC=C1)[CH-:3]C1(O)CC(C)C(CO[Si](C2=CC=CC=C2)(C2=CC=CC=C2)C(C)(C)C)=CC1(C)CCCO[Si](C)(C)C(C)(C)C.[Na+]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2536,"CCSC[CH:1]=[C:2](N)[O-:3].[H:4][OH2+:5]|(3, 2);((2, 1), 4);((4, 5), 5)"
train,pmechdb_split_0,0,2502,"CC(C)[CH+:1]C1=CC=CC=C1.[Br-:2]|(2, 1)"
train,pmechdb_split_0,0,906,"CP(C)(=O)[CH2-:1].[CH2:2]=[O:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,1475,"O=C(CCC1=C(Br)C=CC=C1)[Cl:1].[Cl][Al:2]([Cl])[Cl]|(1, 2)"
train,pmechdb_split_0,0,5857,"CCCCC(O[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(OC1=CC=CC=C1)C(=O)[O:1][H:2].CCOC(=O)N[N-:3]C(=O)OCC|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5170,"O=S(=O)(O)[O-:1].O=[N+]([O-])C1=C[CH+:2][C:3]([N+](=O)[O-])([H:4])O1|(1, 4);((4, 3), 2)"
train,pmechdb_split_0,0,8976,"CNC(C)[OH+:1][H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8758,"C[CH:1]([C:2](Cl)(Cl)Cl)[O-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,2229,"N#[C-:1].O=C(CCCl)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,216,"C=CCOC1OC(COC(C)=O)C([OH+:1][C:2](C)(C)[OH:3])C(O)C1OC(C)=O.CC(=O)[O-].O|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2030,"C=[O+][Si-:1](C)(C)(C)[Br:2]|((1, 2), 2)"
train,pmechdb_split_0,0,2188,"O[CH:1]=[OH+:2].[Cl-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,6998,"C(=NC1CCCCC1)=[N:1]C1CCCCC1.C1=CC(N2CCCC2)=CC=N1.CCOC(=O)CC=CCO.O=C(CC1=CC=CC=C1)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,9443,"C[CH+:1][NH2:2]|(2, 1)"
train,pmechdb_split_0,0,9027,"CC(CC(=O)C1=CC=C(I)C=C1)(C1=CC=C(I)C=C1)[O-:1].[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,3175,"C1=CC=CC=C1.CC(CO)[OH:1].CC1=CC=C(S(=O)(=O)[O-])C=C1.O=[N+]([O-])C1=CC=C([CH:2]=[OH+:3])C=C1|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,10143,"CC(C)(C)[Si-:1](C)(C)(C)[O+:2](C)C|((1, 2), 2)"
train,pmechdb_split_0,0,9576,"CC1CC([Cl+:1][Ti-2:2]2([Cl])([Cl])([Cl])[O]CC[O+]2C)C(CO[Si](C2=CC=CC=C2)(C2=CC=CC=C2)C(C)(C)C)CO1|((2, 1), 1)"
train,pmechdb_split_0,0,9767,"CC(=O)OC(CCC=O)=[O:1].O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,430,"CC(=CI)C(=O)[O:1][H:2].CCO.CC[O-:3].O=C=O.[K+]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,1901,"C[CH:1]([N+:2](C)(C)C)[O-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,7582,"CC[NH+:1](C(C)(C)O)[H:2].CC[NH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,4143,"CN(C)[C:1](=[CH2:2])[O-:3].C[CH:4](C)[Br:5]|(3, 1);((1, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,1125,"C1=CC=[N+](C2=NC3=C(C=CC=C3)N2)C(CS[OH:1])=C1.CC(=O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,3332,"CC(C)[N+:1](C)(C)[H:2].[I-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,4563,"CN[CH:1]=[NH+:2]C.C[OH:3].[Cl-]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,5093,"CC1=CC(C)=[C:1]([Li:2])C(C)=C1.CCC(=O)C(=O)OCC1=C([I:3])C=CC=C1|((2, 1), 3)"
train,pmechdb_split_0,0,4489,"CC1(C)C2CCC1(CS(=O)(=O)[O-])C(=O)C2.CC[C:1](CCC1(C)C(=O)CCCC1=O)=[O:2].O=C(O)C(CC1=CC=CC=C1)[NH2:3].[NH3+]C(CC1=CC=CC=C1)C(=O)O|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,828,"[H:1][BH3-:2].[O-]CC=C[CH:3]=[O:4]|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,8342,"CCC(C)[O:1][Si-:2](C)(C)(C)F|((2, 1), 1)"
train,pmechdb_split_0,0,3280,"C1CO[C:1](=[O:2])N1.[Cl-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,2491,"CCOC(=O)[C:1](CCCCBr)([H:2])[C:3](OCC)=[O:4].CC[O-:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,2795,"C[C:1](Cl)=[OH+:2].[OH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,8707,"CC(C)(C)C(C)(C)OCC=[O:1].F[B:2](F)F|(1, 2)"
train,pmechdb_split_0,0,3163,"Br[C:1]1=[CH:2][CH:3]=[CH:4]C=C1.O=[N+:5]=[O:6]|((1, 2), 3);((3, 4), 5);((5, 6), 6)"
train,pmechdb_split_0,0,644,"C1=C[NH+]=CN1.COC1OC2COC(C3=CC=CC=C3)OC2[CH:1]([O:2][P+:3](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C1O.[I-:4]|(4, 1);((1, 2), 3)"
train,pmechdb_split_0,0,9095,"C1CO[C:1](=[OH+:2])O1.[OH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,3989,"C1=NN=N[N:1]1[H:2].CO[P:3](OC)N(C)C|(3, 2);((2, 1), 1)"
